US09163021B2
5-[(diphenylmethylene)amino]-N-methoxy-N-methylnicotinamide
Prepared according to the method described for Preparation 51 using 5-bromo-N-methoxy-N-methylnicotinamide and benzophenone imine.

reactant | 5-bromo-N-methoxy-N-methylnicotinamide | BrC=1C=NC=C(C(=O)N(C)OC)C1 | C8H9BrN2O2
reactant | benzophenone imine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
product | 5-[(diphenylmethylene)amino]-N-methoxy-N-methylnicotinamide | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=NC=C(C(=O)N(C)OC)C1 | C21H19N3O2
